US07652015B2
4-(5-{3-[5-(1-Methyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-yl]-ureido}-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester
Heat a solution of 4-(5-amino-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester (Preparation 4, 1.05 equiv, 0.5845 g), [5-(1-methyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-yl]-carbamic acid 2,2,2-trichloroethyl ester (Preparation 39, 1.0 equiv, 0.8054 g) and diisopropylethylamine (2 equiv, 0.7 mL) in DMSO (0.25 M, 8 mL) to 60° C. for 6 hours. Cool the resulting mixture to ambient temperature, and add water (20 mL). Extract with EtOAc (2×25 mL), then wash the combined organic phases with water (10 mL) and saturated aq. sodium chloride solution (10 mL). Dry over MgSO4, then subject residue to silica gel chromatography eluting with a gradient 2 M ammonia-methanol in dichloromethane. LCMS(ES+): m/z=532.3 [M+H].

reactant | 4-(5-amino-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.5845 g, 1.05 equiv | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=C1)N | C14H22N4O2
reactant | [5-(1-methyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-yl]-carbamic acid 2,2,2-trichloroethyl ester | 0.8054 g, 1.0 equiv | ClC(COC(NC=1N(N=C(C1)C1(CC1)C)C1=CC=C(C=C1)C)=O)(Cl)Cl | C17H18Cl3N3O2
reactant | diisopropylethylamine | 0.7 mL, 2 equiv | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | 20 mL | O | H2O
solvent | DMSO | 0.25 M, 8 mL | CS(=O)C | C2H6OS
product | 4-(5-{3-[5-(1-Methyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-yl]-ureido}-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=C1)NC(=O)NC=1N(N=C(C1)C1(CC1)C)C1=CC=C(C=C1)C | C29H37N7O3
